US07626021B2
3-Fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-2-(4-oxo-cyclohexylamino)-benzamide (91 mg, 0.14 mmol), sodium cyanoborohydride (17.5 mg, 0.28 mmol), and morpholine (37 μL, 0.41 mmol) were dissolved in 1.7 mL methanol, containing 5% v/v of glacial acetic acid and 2% v/v of water. The reaction was stirred for 2 hrs at ambient temperature and quenched with a saturated sodium bicarbonate solution. The mixture was concentrated, suspended in a minimal amount of water and loaded onto a 5 g C18 functionalized silica gel cartridge. The cartridge was washed with 1 N aqueous potassium hydrogensulfate and water. Elution with acetonitrile and evaporation of the solvent afforded a brown oil which was purified by reverse-phase HPLC to afford 10.4 mg (0.014 mmol, 10%) of both diastereoisomers of 3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-2-(4-morpholin-4-yl-cyclohexylamino)-benzamide as a white powder. More polar diastereoisomer (4.5 mg) 1H NMR (500 MHz, DMSO-d6) δ13.75 (bs, 1H), 8.81 (d, J=2 Hz, 1H), 8.27 (d, J=2 Hz, 1H), 8.16 (s, 1H), 7.62 (dd, J=7.5 Hz, J2=1.5 Hz, 1H), 7.58 (dd, J=13.5 Hz, J2=2 Hz, 1H), 7.45 (ddd, J=8 Hz, J2=7 Hz, J3=1.5 Hz, 1H), 7.30 (d, J=2 Hz, 1H), 7.20 (d, J=8 Hz, 1H), 7.08 (td, J=7.5 Hz, J2=1 Hz, 1H), 4.56 (d, J=9 Hz, 1H), 3.82 (s, 3H), 3.53 (t, J=4.5 Hz, 4H), 3.11 (m, 1H), 2.99 (bs, 3H), 2.90 (s, 3H), 2.43 (t, J=4.5 Hz, 4H), 2.14 (m, 1H), 1.88 (m, 2H), 1.82 (m, 2H), 1.17 (m, 4H). MS: m/z 573.4 (M+H+). Less polar diastereoisomer (5.9 mg) 1H NMR (500 MHz, DMSO-d6) δ13.77 (bs, 1H), 8.82 (s, 1H), 8.30 (s, 1H), 7.61 (m, 2H), 7.45 (t, J=8 Hz, 1H), 7.34 (m, 1H), 7.20 (d, J=8 Hz, 1H), 7.08 (t, J=8 Hz, H), 4.87 (d, J=9 Hz, 1H), 3.82 (s, 3H), 3.56 (m, 5H), 2.96 (m, 6H), 2.41 (m, 4H), 2.14 (m, 1H), 1.65 (m, 2H), 1.51 (m, 2H), 1.48 (m, 4H). MS: m/z 573.3 (M+H+).

reactant | 3-Fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-2-(4-oxo-cyclohexylamino)-benzamide | 0.14 mmol, 91 mg | FC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)NC2CCC(CC2)=O | C28H28FN5O3
reactant | sodium cyanoborohydride | 0.28 mmol, 17.5 mg | C(#N)[BH3-].[Na+]
reactant | morpholine | 0.41 mmol, 37 μL | N1CCOCC1 | C4H9NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 1.7 mL | CO | CH4O
solvent | water | O | H2O
product | 3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-2-(4-morpholin-4-yl-cyclohexylamino)-benzamide | FC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)NC2CCC(CC2)N2CCOCC2 | C32H37FN6O3
